US07547691B2
(D). Preparation of 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide
To a stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid (2.50 g, 3.07 mmol) is added diisopropylethylamine (1.12 mL, 6.44 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (617 mg, 3.22 mmol) and 1-hydroxybenzotriazole (435 mg, 3.22 mmol) at room temperature under nitrogen atmosphere. The mixture is treated with cyclopropylamine (184 mg, 3.22 mmol) and stirred at room temperature for 1 day. The mixture is diluted with dichloromethane (60 mL) and washed with water (3×30 mL). The organic phase suspension is filtered off to give a yellow solid which is washed with dichloromethane and water to give the title compound as a yellow solid (880 mg, 72% yield).

reactant | 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid | 3.07 mmol, 2.50 g | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2C(=O)O)OC)Cl | C14H8Cl2N2O3S
reactant | diisopropylethylamine | 6.44 mmol, 1.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 3.22 mmol, 617 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.22 mmol, 435 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclopropylamine | 3.22 mmol, 184 mg | C1(CC1)N | C3H7N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide | 880 mg, 72% yield | C1(CC1)NC(=O)C1=CC=C(C=2SC(=CC21)C2=NC(=NC=C2Cl)Cl)OC | C17H13Cl2N3O2S
